US05602161
2-(1H-Tetrazol-5-yl)phenol
2-Cyanophenol (1.19 g), ammonium chloride (0.695 g), and sodium azide (0.845 g) were added to dimethylformamide (5 ml). The mixture was heated with stirring at 120° C. for 3 h. After cooling, it was poured into ice water and acidified with dilute hydrochloric acid. The resulting crystals were collected by filtration and dried to give the title compound.

reactant | 2-Cyanophenol | 1.19 g | C(#N)C1=C(C=CC=C1)O | C7H5NO
reactant | ammonium chloride | 0.695 g | [Cl-].[NH4+]
reactant | sodium azide | 0.845 g | [N-]=[N+]=[N-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-(1H-Tetrazol-5-yl)phenol | N1N=NN=C1C1=C(C=CC=C1)O | C7H6N4O
